US04076828
B. 4-(Cyclohexylmethyl)thio-2-nitroaniline
To a stirred mixture of 9.75 g (0.05 mole) of 2-nitro-4-thiocyanoaniline in 500 ml of absolute ethanol under nitrogen there is added 2.04 g (0.05 mole) of sodium borohydride in portions. The mixture is stirred at room temperature for 15 minutes and then refluxed for 15 minutes. The heating mantle is removed and 3.25 g (0.05 mole) of KOH in 15 ml of absolute ethanol is added. The mixture is stirred for 1 minute. A solution of 8.85 g (0.05 mole) of cyclohexylmethyl bromide in 15 ml of absolute ethanol is added and the mixture is stirred at room temperature for 15 minutes then refluxed for 1 hour. Equal amounts of water and CHCl3 are added until 2 layers are formed. The organic layer is separated, dried (MgSO4) and the solvent removed in vacuo. The residue is crystallized from ethyl ether to yield 8.3 g, m.p. 80°-82°.

reactant | 2-nitro-4-thiocyanoaniline | 0.05 mole, 9.75 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC#N | C7H5N3O2S
reactant | sodium borohydride | 0.05 mole, 2.04 g | [BH4-].[Na+]
reactant | KOH | 0.05 mole, 3.25 g | [OH-].[K+]
reactant | cyclohexylmethyl bromide | 0.05 mole, 8.85 g | C1(CCCCC1)CBr | C7H13Br
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4-(Cyclohexylmethyl)thio-2-nitroaniline | C1(CCCCC1)CSC1=CC(=C(N)C=C1)[N+](=O)[O-] | C13H18N2O2S
